US08497368B2
6-((6-Vinyl-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (66.1)
To a degassed solution 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (1200 mg, 3.52 mmol) in DMF (10 mL), was added Pd(PPh3)4 (610 mg, 0.528 mmol). The solution was stirred for 20 min, then tributyl(vinyl)stannane (1227 mg, 3.87 mmol) was added. The reaction mixture was heated to 120° C. for 5 h. NH4Cl(aq) was added to quench the reaction, followed by EtOAc. The reaction mixture was filtered through celite and the filtrate was washed with sat NaHCO3, sat NH4Cl. The organic layer was separated, dried over Na2SO4 and concentrated to give the crude product, which was purified with Analogix gel silica (Hexanes:EA) to afford 210 mg of title compound in 20% yield. LCMS (method B): [MH]+=288, tR=2.05 min.

reactant | 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 3.52 mmol, 1200 mg | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
reactant | tributyl(vinyl)stannane | 3.87 mmol, 1227 mg | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | NH4Cl | [NH4+].[Cl-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.528 mmol, 610 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-((6-Vinyl-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 210 mg, 20% yield | C(=C)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C16H12N6
